US08349824B2
A mixture of ethyl 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate (example 33, step d) (658 mg, 1.66 mmol) and lithium hydroxide hydrate (139 mg, 3.31 mmol) in methanol (20 ml) and water (5 ml) and tetrahydrofuran (10 ml) was stirred for 6 hours at 60° C. (soluble when heated). The mixture was neutralized using hydrochloric acid 2N (1.655 ml, 3.31 mmol) and the mixture was evaporated affording 7-{[4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carbonyl]-amino}-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid (776 mg, 77.4%) as a light brown solid which was used in the following reactions. A mixture of 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid (120 mg, 244 μmol), dimethylamine hydrochloride (99.4 mg, 1.22 mmol), propylphosphonic anhydride (50% in ethyl acetate, 359 μl, 609 μmol) and diisopropylethylamine (298 μl, 1.71 mmol) in tetrahydrofuran (7 ml) was stirred for 20 hours at 25° C. The solvent was evaporated, the residue was triturated with sodium bicarbonate solution, the precipitated solid was filtered off, washed with water and dried. The material was applied on silicagel and purified by flash chromatography over a 5 g silicagel column using dichloromethane/methanol 5% as eluent affording 7-{[4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carbonyl]-amino}-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid dimethylamide (39 mg, 40.4%) as an off-white foam. MS: m/z=397.1 (M+H+)

reactant | 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid | 244 μmol, 120 mg | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C(=O)O)C | C16H15N7O4
reactant | dimethylamine hydrochloride | 1.22 mmol, 99.4 mg | Cl.CNC
reactant | propylphosphonic anhydride | 609 μmol, 359 μl | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethylamine | 1.71 mmol, 298 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 7-{[4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carbonyl]-amino}-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid dimethylamide | 39 mg, 40.4% | CN(C(=O)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C)=N1)C | C18H20N8O3
